US07098218B2
16-Oximino-Estrone 6
To a stirred solution of potassium tert-butoxide under an atmosphere of N2, freshly prepared by dissolving potassium metal (80 mg, 2.05 mmol) in 2 mL tert-butanol, oestrone (200 mg, 740 mmol) was added. The reaction mixture was then stirred for 1 hour at room temperature under N2 and isoamyl nitrite (180 μmol, 1.34 mmol) was added dropwise. The deep red mixture obtained was stirred overnight and then poured into water (20 mL). The resulting solution was extracted with ether (2×20 mL) and the aqueous layer was acidified with glacial acetic acid. (10 mL) to give a light yellow precipitate. This was left separating for two hours after which the solid was filtered (140 mg, 63%): mp 223–225° C. (lit. 226–227° C.);43 TLC (chloroform/acetone, 9:1) Rf 0.27 cf. Rf 0.69 (E1); IR (KBr) 3385 (NOH), 2920–2860 (aliph CH), 1735 (C═O), 1605–1500 (arom C═C) cm−1; δH (DMSO-d6, 400 MHz) 0.89 (3H, s, C-18-H3), 1.30–2.85 (11H, m), 2.70–2.81 (2H, m, C-6-H2), 6.46 (1H, d, JC-2-H,C-4-H=2.3 Hz, C-4-H), 6.52 (1H, dd, JC-1-H,C-2-H=8.4 Hz and JC-4-H,C-2-H=2.3 Hz, C-2-H), 7.05 (1H, d, JC-2-H,C-1-H=8.2 Hz, C-1-H), 9.05 (1H, s, exchanged with D2O, OH) and 12.39 (1H, s, exchanged with D2O, NOH); δc (DMSO-d6, 100.4 MHz) 14.09 (q, C-18), 25.09 (t); 25.46 (t), 26.18 (t), 29.02 (t), 30.92 (t), 37.20 (d), 43.20 (d), 44.59 (d), 48.50 (s, C-13), 112.70 (d), 114.83 (d), 125.82 (d), 129.59 (s), 136.88. (s), 154.84 (s, C-3 or C-16), 155.23 (s, C-3 or C-16) and 204.64 (s, C═O); MS m/z (FAB+) 453.2 [30, (M+H+NBA)+], 300.1 [100, (M+H)+]; MS m/z (FAB−) 451.3 [38, (M−H+NBA)−], 298.2 [100, (M−H)−]; Acc MS m/z (FAB+) 300.15963, C18H22NO3 requires 300.115997. CHN,

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | potassium | 2.05 mmol, 80 mg | [K] | K
reactant | oestrone | 740 mmol, 200 mg | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
reactant | isoamyl nitrite | 180 μmol | N(=O)OCCC(C)C | C5H11NO2
solvent | tert-butanol | 2 mL | C(C)(C)(C)O | C4H10O
solvent | water | 20 mL | O | H2O
product | 16-Oximino-Estrone | C[C@]12CC[C@H]3[C@H]([C@@H]1C/C(=N\O)/C2=O)CCC4=C3C=CC(=C4)O | C18H21NO3
